US05808062
4-Hydroxy-6-(3-hydroxyphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-hydroxyacetophenone (0.722 g, 5.31 mmol), lithium bis(trimethylsilyl)amide (1.95 g, 11.6 mmol), chlorotrimethylsilane (1.48 mL, 11.6 mmol), THF (116 mL), and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.54 mmol). m.p. dec. 185° C.; 1H NMR (400 MHz, DMSO-d6) δ 4.00 (s, 2 H), 6.66 (s, 1 H), 6.92 (m, 1 H), 7.21 (m, 7 H), 7.32 (m, 1 H).

reactant | 3'-hydroxyacetophenone | 5.31 mmol, 0.722 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | lithium bis(trimethylsilyl)amide | 11.6 mmol, 1.95 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 11.6 mmol, 1.48 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 3.54 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
solvent | THF | 116 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-(3-hydroxyphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=CC=C1)O)=O)SCC1=CC=CC=C1 | C18H14O4S
